US05430044
To a solution of 1-[4-(phenylmethoxy)phenyl]-2-phenylethylamine (4.5 g, 0.013 mol) in methanol (200 mL) and 1N hydrochloric acid (50 mL) was added 5% palladium on carbon (0.8 g). The mixture was shaken on a Parr apparatus under a pressure of 35-40 psi of hydrogen for 3 h, The catalyst was removed by filtration, and the filtrate concentrated under vacuum to give a white solid. This solid was recrystallized from 2-propanol (75 mL) and ether (50 mL) and vacuum dried at 80° C. for 48 h to give 2.31 g of 1-(4-hydroxyphenyl)-2-phenylethylamine hydrochloride; mp 203°-204° C.

reactant | 1-[4-(phenylmethoxy)phenyl]-2-phenylethylamine | 0.013 mol, 4.5 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)C(CC1=CC=CC=C1)N | C21H21NO
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 1-(4-hydroxyphenyl)-2-phenylethylamine hydrochloride | 2.31 g | Cl.OC1=CC=C(C=C1)C(CC1=CC=CC=C1)N | InChI=1S/C14H15NO.ClH/c15-14(10-11-4-2-1-3-5-11)12-6-8-13(16)9-7-12;/h1-9,14,16H,10,15H2;1H
